US07375115B2
2-(Acetoxymethyl)-2-[2-[1-[2-(tert-butyldiphenylsiloxy)ethyl]cyclohexyl]ethyl]-1,4-diacetoxybutane
To a solution of 2-[2-[1-[2-(tert-butyldiphenylsiloxy)ethyl]cyclohexyl]ethyl]-2-hydroxymethylbutan-1,4-diol (300 mg) in pyridine (5.0 mL) was added acetic anhydride (5.0 mL) at room temperature. After stirring the solution at room temperature for 16 hours, it was concentrated under reduced pressure to give the title compound (340 mg).

reactant | 2-[2-[1-[2-(tert-butyldiphenylsiloxy)ethyl]cyclohexyl]ethyl]-2-hydroxymethylbutan-1,4-diol | 300 mg | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CCC1(CCCCC1)CCC(CO)(CCO)CO | C31H48O4Si
reactant | acetic anhydride | 5.0 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 5.0 mL | N1=CC=CC=C1 | C5H5N
product | 2-(Acetoxymethyl)-2-[2-[1-[2-(tert-butyldiphenylsiloxy)ethyl]cyclohexyl]ethyl]-1,4-diacetoxybutane | 340 mg | C(C)(=O)OCC(COC(C)=O)(CCOC(C)=O)CCC1(CCCCC1)CCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C37H54O7Si
